US04128562
A mixture of 77 g of ethyl 3-thioxo-hexanoate, 300 ml of methanol and 28 g of potassium methylate was stirred at 20° C. for 15 minutes and after the addition of 30.2 g of chloroacetonitrile, thereto, the mixture was stirred for another 15 minutes at 20° C. The mixture was refluxed for 4 hours and the solvent was then evaporated. The residue was dissolved in ether and the ether phase was washed with methylene chloride, acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The solution was then treated with activated carbon, was dried and evaporated to dryness. The residue was dissolved in toluene and the solution was iced and vacuum filtered. The recovered crystals were crystallized from a 3-1 petroleum ether-benzene mixture to obtain 3.1 g of 2-cyano-3-hydroxy-5-n-propyl-thiophene melting at 78° C.

reactant | ethyl 3-thioxo-hexanoate | 77 g | S=C(CC(=O)OCC)CCC | C8H14O2S
reactant | potassium methylate | 28 g | C[O-].[K+]
reactant | chloroacetonitrile | 30.2 g | ClCC#N | C2H2ClN
solvent | methanol | 300 ml | CO | CH4O
product | 2-cyano-3-hydroxy-5-n-propyl-thiophene | 3.1 g | C(#N)C=1SC(=CC1O)CCC | C8H9NOS
